US08314253B2
1.9 rac-Toluene-4-sulfonic acid (1R*,8R*,9R*)-2-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-ethyl ester
A mixture of 2.0 g of rac-(1R*,8R*,9R*)-9-(2-hydroxy-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol, 1.9 g of TsCl, 1.5 mL of NEt3 and 0.22 g of DMAP in 120 mL of toluene was stirred overnight at rt. The reaction mixture was quenched with water, the organic phase was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by CC with Hept/EtOAc (1:1) to yield 2.7 g of the desired compound as yellow oil.

reactant | rac-(1R*,8R*,9R*)-9-(2-hydroxy-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol | 2.0 g | OCCC1(C2C3=CC=CC=C3C(C1)CC2)O | C14H18O2
reactant | TsCl | 1.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NEt3 | 1.5 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.22 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | rac-Toluene-4-sulfonic acid (1R*,8R*,9R*)-2-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-ethyl ester | 2.7 g | O[C@@]1([C@H]2C3=CC=CC=C3[C@@H](C1)CC2)CCOS(=O)(=O)C2=CC=C(C=C2)C | C21H24O4S
